US08865713B2
Step D: 2,5-Dichloro-1-(2-methoxy-ethoxymethyl)-6-pyrrolidin-1-yl-1H-benzoimidazole.
A solution of 5-chloro-1-(2-methoxy-ethoxymethyl)-6-pyrrolidin-1-yl-1H-benzoimidazole (0.221 g, 0.714 mmol) and THF (2.5 mL) was cooled to −78° C. in an acetone/dry ice bath. Lithium diisopropylamide (2.0M solution in THF/heptane/ethylbenzene, 0.90 mL, 1.8 mmol) was added dropwise and the reaction mixture was stirred at −78° C. for 30 min. N-chlorosuccinimide (267 mg, 2.00 mmol) was added at −78° C. and the reaction mixture was warmed to 23° C. and stirred for 2 h. Saturated aqueous NH4Cl (20 mL) was added and the crude product was extracted into EtOAc (3×50 mL). The combined organic layers were washed with brine (50 mL), dried, filtered, and concentrated under reduced pressure. The residue was purified (FCC) (0-100% EtOAc/hexanes) to yield the titled compound (0.240 g, 71%) as a mixture of regioisomers with purity of 70%. MS (ESI/CI): mass calcd. for C15H19Cl2N3O2, 343.1; m/z found, 344.1 [M+H]+.

reactant | 5-chloro-1-(2-methoxy-ethoxymethyl)-6-pyrrolidin-1-yl-1H-benzoimidazole | 0.714 mmol, 0.221 g | ClC1=CC2=C(N(C=N2)COCCOC)C=C1N1CCCC1 | C15H20ClN3O2
reactant | Lithium diisopropylamide | 1.8 mmol, 2.0M, 0.90 mL | C(C)(C)[N-]C(C)C.[Li+]
reactant | N-chlorosuccinimide | 2.00 mmol, 267 mg | ClN1C(CCC1=O)=O | C4H4ClNO2
reactant | NH4Cl | 20 mL | [NH4+].[Cl-]
solvent | THF | 2.5 mL | C1CCOC1 | C4H8O
product | 2,5-Dichloro-1-(2-methoxy-ethoxymethyl)-6-pyrrolidin-1-yl-1H-benzoimidazole | 0.240 g, 71% | ClC1=NC2=C(N1COCCOC)C=C(C(=C2)Cl)N2CCCC2 | C15H19Cl2N3O2
